* NGSPICE file created from core.ext - technology: sky130A

* Black-box entry subcircuit for counter abstract view
.subckt counter clk enable out[0] out[1] out[2] out[3] reset vccd1 vssd1
.ends

.subckt core clk enable out1[0] out1[1] out1[2] out1[3] out2 reset vccd1 vssd1
Xc1 clk enable out1[0] out1[1] out1[2] out1[3] reset vccd1 vssd1 counter
Xc2 clk enable c2/out[0] c2/out[1] c2/out[2] out2 reset vccd1 vssd1 counter
.ends

